US06787543B2
(Dimethylamino)sulfur trifluoride (0.068 ml) was added dropwise to a solution of tert-butyl (4R,7R,8aS)-4-benzhydryl-7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate (115 mg) in dichloromethane (2 ml) under cooling with dry ice-acetone. The mixture was stirred for 20 minutes at the same temperature (−50° C.), followed by room temperature for 2 hours. The mixture was poured into ice-water and the dichloromethane layer was separated, dried over magnesium sulfate, and evaporated under reduced pressure. The syrup was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (2:1). The fractions containing the objective compound were collected and evaporated under reduced pressure. The resulting syrup was treated with 4N hydrogen chloride in ethyl acetate (2 ml) and evaporated under reduced pressure to give (4R,7S,8aS)-4-benzhydryl-7-fluorooctahydropyrrolo[1,2-a]pyrazine dihydrochloride (75 mg).

reactant | (Dimethylamino)sulfur trifluoride | 0.068 ml | CN(C)S(F)(F)F | C2H6F3NS
reactant | tert-butyl (4R,7R,8aS)-4-benzhydryl-7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 115 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1C[C@@H](C2)O)C(=O)OC(C)(C)C | C25H32N2O3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (4R,7S,8aS)-4-benzhydryl-7-fluorooctahydropyrrolo[1,2-a]pyrazine dihydrochloride | 75 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CNC[C@H]2N1C[C@H](C2)F | InChI=1S/C20H23FN2.2ClH/c21-17-11-18-12-22-13-19(23(18)14-17)20(15-7-3-1-4-8-15)16-9-5-2-6-10-16;;/h1-10,17-20,22H,11-14H2;2*1H/t17-,18-,19-;;/m0../s1
